US05736555
52d) Methyl 2-butyl-1-[2'-hydroxymethylbiphenyl-4-yl]methylbenzimidazole-7-carboxylite
A mixture of methyl 2-butyl-1-[2'-carboxybiphenyl-4-yl]methylbenzimidazole-7-carboxylate (0.44 g) and thionyl chloride (0.15 ml) in chloroform (4 ml) was heated for 30 minutes under reflux with stirring. The reaction mixture was concentrated, and the resulting product was used for the subsequent reaction without purification. A stirred solution of the above product in tetrahydrofuran (6 ml) was added dropwise to a suspension of aluminium lithium hydride (40 mg) in tetrahydrofuran (6 ml) under ice-cooling. The reaction mixture was stirred for one minutes at the same temperature, and to the mixture were added 2N-HCl and, then water, followed by extraction with chloroform. The extract was washed with water and dried (MgSO4), and the solvent was evaporated in vacuo. The residue was purified by column chromatography on silica gel to give an oil. Crystallization of this product from isopropyl ether afforded colorless prisms (0.13 g, 31%), m.p.126°-127° C.

reactant | methyl 2-butyl-1-[2'-carboxybiphenyl-4-yl]methylbenzimidazole-7-carboxylate | 0.44 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O)C(=CC=C2)C(=O)OC | C27H26N2O4
reactant | thionyl chloride | 0.15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | aluminium lithium hydride | 40 mg | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | HCl | Cl | ClH
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | Methyl 2-butyl-1-[2'-hydroxymethylbiphenyl-4-yl]methylbenzimidazole-7-carboxylite | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)CO)C(=CC=C2)COC | C27H30N2O2
